US04968704
(i) N,N'-Dimethyl-N-(4-pyridyl)-1,2-ethanediamine
A mixture of 4-chloropyridine hydrochloride (15.0 g), N,N'-dimethyl-1,2-ethanediamine (22.0 g) and sodium bicarbonate (25.20 g) in isoamyl alcohol (100 ml) was heated under reflux for 48 hours and then evaporated. The residue was extracted several times with hot dichloromethane and the combined extracts were filtered and evaporated. The residue was distilled to give the product (8.30 g), b.p. 168°-172° @ 15 mm.

reactant | 4-chloropyridine hydrochloride | 15.0 g | Cl.ClC1=CC=NC=C1
reactant | N,N'-dimethyl-1,2-ethanediamine | 22.0 g | CNCCNC | C4H12N2
reactant | sodium bicarbonate | 25.20 g | C([O-])(O)=O.[Na+]
solvent | isoamyl alcohol | 100 ml | C(CC(C)C)O | C5H12O
product | N,N'-Dimethyl-N-(4-pyridyl)-1,2-ethanediamine | 8.30 g | CN(CCNC)C1=CC=NC=C1 | C9H15N3
